US06107308
Synthesis of 1-tert-butoxycarbonyl-4-(2-quinolylmethylene)piperidine:
Under argon, 2-quinolylmethyltriphenylphosphonium chloride (8.72 g) was dissolved in anhydrous THF (60 ml), and a 1.6N solution (15 ml) of butyllithium was added dropwise over 20 minutes under cooling on ice. The mixture was then stirred for 10 minutes at room temperature. To the mixture, an anhydrous THF (24 ml) solution of 1-tert-butoxycarbonyl-4-ketopiperidine (4.29 g) was added dropwise over 15 minutes under cooling on ice. The mixture was stirred for 30 minutes under cooling on ice and further stirred overnight at room temperature. Water (200 ml) was added to the reaction mixture, then the resultant mixture was extracted with ether. The organic phase was back-extracted with 1N hydrochloric acid, and the aqueous phase was neutralized with a saturated solution of sodium hydrogencarbonate. The resultant mixture was extracted with ethyl acetate. The organic phase was washed with saturated brine, dried over sodium sulfate anhydrate, and concentrated under reduced pressure, to thereby obtain the title compound as a solid. This solid was used for subsequent reaction without further purification.

reactant | 2-quinolylmethyltriphenylphosphonium chloride | 8.72 g | [Cl-].N1=C(C=CC2=CC=CC=C12)C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | butyllithium | C(CCC)[Li]
reactant | 1-tert-butoxycarbonyl-4-ketopiperidine | 4.29 g | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
reactant | Water | 200 ml | O | H2O
solvent | THF | 60 ml | C1CCOC1 | C4H8O
solvent | THF | 24 ml | C1CCOC1 | C4H8O
product | 1-tert-butoxycarbonyl-4-(2-quinolylmethylene)piperidine | C(C)(C)(C)OC(=O)N1CCC(CC1)=CC1=NC2=CC=CC=C2C=C1 | C20H24N2O2
